US09034866B2
Into a 100-mL 3-necked round-bottom flask was placed a solution of 6-Bromo-7-fluoro-2,3-dihydro-1H-1,3-methano-naphthalen-4-one (4.5 g, 17.64 mmol, 1.00 equiv) in ethanol/H2O (20/20 mL), sodium carbonate (3.8 g, 35.85 mmol, 2.00 equiv), and NH2OH.HCl (2.4 g, 2.00 equiv). The resulting solution was stirred overnight at 85° C., cooled and concentrated under vacuum. The solids were collected by filtration, washed with 2×50 mL of water and dried to afford 3.5 g (73%) of 6-Bromo-7-fluoro-2,3-dihydro-1H-1,3-methano-naphthalen-4-one oxime as a white solid.

reactant | 6-Bromo-7-fluoro-2,3-dihydro-1H-1,3-methano-naphthalen-4-one | 17.64 mmol, 4.5 g, 1.00 equiv | BrC=1C=C2C(C3CC(C2=CC1F)C3)=O | C11H8BrFO
reactant | sodium carbonate | 35.85 mmol, 3.8 g, 2.00 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | NH2OH.HCl | 2.4 g, 2.00 equiv | NO.Cl
solvent | ethanol H2O | 20 mL | C(C)O.O
product | 6-Bromo-7-fluoro-2,3-dihydro-1H-1,3-methano-naphthalen-4-one oxime | 3.5 g, 73% | BrC=1C=C2C(C3CC(C2=CC1F)C3)=NO | C11H9BrFNO
